Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
dapsone
 
Attending: ___.
 
Chief Complaint:
Cough, wheezing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ CVID, h/o FL transformed to DLBCL ___ autoSCT (BEAM prep) 
in ___ in remission from lymphoma then with treatment-related 
MDS ___ 4 cycles of decitabine and planning for transplant, who 
presents with cough and wheezing x2 days. She states that her 
cough is productive with clear sputum with no blood. She denies 
any fever or chills. She has no chest pain, shortness of breath, 
abdominal pain,  diarrhea, or difficulty/pain with urination. 
She does endorse some nasal congestion and dry throat.  

She has had issues with bronchitis/pneumonias in the past. Given 
her profound neutropenia, she was referred to the ED for 
possible admission. 

In the ED, labs were notable for WBC 0.8, ANC 170, H/H 8.0/24.6, 
Plt 27, lactate 1.0, coags wnl. 
Chem 7: Na 140, K 3.8, Cl 107, CO2 21, BUN 16, Cr 0.8, Glucose 
72.
UA, urine and blood cultures were ordered. 
CXR did not show evidence of pneumonia, however with patient's 
worsening cough and wheezes along with her neutropenia, she was 
treated with empiric antibiotics, including cefepime, 
vancomycin, and azithromycin. 
She also received albuterol and ipratropium nebs.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Transformed DLBCL with a history of follicular lymphoma stage 
IIA
- ___ developed worsening musculoskeletal back pain, early
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the 
duodenum, retroperitoneum and celiac access.  Biopsies showed 
Follicular lymphomas grade II/III.  Reportedly negative staging 
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst.  
- ___ Presented to PCP ___ ___iscomfort. 
Exam revealed new adenopathy. Labs notable for LDH 341, WBC 
10.1,
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical, 
supraclavicular, mediastinal lymphadenopathy, and 
retroperitoneal lymphadenopathy, and small mesenteric 
lymphadenopathy, all markedly FDG-avid and concerning for 
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are pending
- ___ C1D1 ICE
- ___ C1 Rituximab, clinically improved adenopathy
- ___ C2 Rituximab, WBC 6.5, PLT 43
- ___ Admit for C2D1 ICE
- ___ C3 Rituximab
- ___ PET CT showed almost complete resolution of FDG avid
disease with a residual focus of avidity in the bed of the 
former abdominal mass, SUV ___ C4 Rituximab
- ___ C4 ICE followed by stem cell mobilization and
collection, BMBx showed a nest of CLL unrelated to her 
aggressive
lymphoma
- ___ Presented with large DVTs, SVC filter placed
- ___ D0 of a BEAM autoSCT, course notable for mucositis
- ___ Switched to Rivaroxaban for AC
- ___ PET CT ___, PFTs with normal Hb adjusted DLCO
- ___ IVIg 400 mg/kg c/b fever, aseptic meningitis, 
cytopenias
- ___ Start XRT
- ___ Presented w dyspnea, DLCO 79% predicted (adjusted for
Hb). Started prednisone 80 mg PO daily
- ___ DLCO 96%, reduce prednisone to 50 mg PO daily
- ___ DLCO 111%, reduce prednisone to 30 mg PO daily
- ___ DLCO 84%, pulse steroids, increase prednisone to 50 
mg PO daily. PLT 81, Bactrim switched to Dapsone for PCP ___.
- Weekly monitoring of DLCO with taper of prednisone to 10 mg
daily as of ___ with DLCO 99%.  Dapsone d/ced on ___
due to hemolysis.
- ___ Decreased prednisone to 5 mg PO daily. Noro virus
persistently positive. 
- ___ CT torso with no evidence of active disease.
Unchanged mesenteric fullness. 
- ___ DLCO decrease (not reported) increase prednisone to 
10 mg
- ___ IVIg 400 mg/kg
- ___ DLCO 121%, continued prednisone 10 mg
- IVIg 400 mg/kg, continues monthly for Hypogammaglobulinemia.
- ___, tapered off prednisone.
- ___, CT torso with no evidence of active disease. Stable
appearance of a conglomeration of mesenteric lymph nodes. 
- ___, Right total knee replacement, primary, complicated
by foot drop likely d/t irritation of peroneal nerve and
cellulitis.
- ___, CT Torso with no evidence of active disease. 
Stable appearance of conglomerate of mesenteric LNs. Increased
dilatation of the main pulmonary artery suggests worsening
pulmonary arterial hypertension of indeterminate etiology.
- ___, CT torso with no evidence of active disease. Increased
dilation of pulmonary artery.  Evaluated by Dr. ___
- ___, increasing right leg swelling with noted DVT.  Xarelto
increased back to 20 mg daily(had been decreased given age and
prior chronic DVT). No evidence for lymphoma on CT imaging.
- ___, noted drop in blood counts.  BM biopsy with evidence
for MDS.
- ___, C1 Dacogen
- ___, C2 Dacogen
- ___, C3 Dacogen
- ___, C4 Dacogen

PAST MEDICAL/SURGICAL HISTORY:  
- CVID, received IVIG monthly. Last given ___
- GERD                                          
- Osteoarthritis                                         
- DVT, right lower extremity, IVC filter in place
- Cervical radiculopathy
- Sciatica
- Obstructive sleep apnea, wears CPAP
- H/O cerebral aneurysm, noted on MRA with small R internal
carotid cavernous sinus aneurysm; coil placed in the aneurysm
(___).  On Neurontin.  Exam notable for slight CN 6 palsy of
the right eye, mild proptosis of the right eye, and hyperthesia
of the right V1 distribution
- Asthma
- Obesity
- Hypertension
- Migraines

 
Social History:
___
Family History:
Brother with lymphoma, died at age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=============================
Vitals: T 98.3, BP 128/58, P 88, RR 22, O2sat 100% on RA
Gen: Pleasant, calm, 
HEENT: No conjunctival pallor. No icterus. MMM. OP clear. No 
pharyngeal erythema or exudates, no sinus tenderness, normal TM 
bilaterally, trachea midline  
LYMPH: No cervical or supraclavicular LAD  
CV: Normocardic, regular. Normal S1,S2. No MRG.  
LUNGS: No increased WOB. Bilateral end expiratory wheezes in 
upper lung fields b/l.  
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema.
SKIN: No rashes/lesions, petechiae/purpura, or ecchymoses.  
NEURO: A&Ox3.  
LINES: Port

DISCHARGE PHYSICAL EXAM:
=============================
Vitals: T 98.2-98.3, BP 117-122/76-80, P 85-91, RR ___, O2sat 
97-98% on RA/CPAP
Gen: Pleasant, calm, no acute distress, coughing occasionally
HEENT: No conjunctival pallor. No icterus. MMM. 
CV: RRR. Normal S1,S2. No MRG.  
LUNGS: No increased WOB. Diffuse expiratory wheezes.
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema.
SKIN: Venous stasis changes in b/l ___, non-pitting ___ edema
LINES: Port

 
Pertinent Results:
ADMISSION LABS:
====================
___ 09:09AM BLOOD WBC-0.9* RBC-2.50* Hgb-8.1* Hct-24.9* 
MCV-100* MCH-32.4* MCHC-32.5 RDW-21.2* RDWSD-72.1* Plt Ct-17*
___ 09:09AM BLOOD Neuts-31* Bands-0 Lymphs-64* Monos-4* 
Eos-0 Baso-1 ___ Myelos-0 NRBC-3* AbsNeut-0.28* 
AbsLymp-0.58* AbsMono-0.04* AbsEos-0.00* AbsBaso-0.01
___ 09:09AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Ovalocy-OCCASIONAL

OTHER RELEVANT LABS:
======================
___ 12:56PM BLOOD Lactate-1.0
___ 12:00AM BLOOD IgG-774
___ 04:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:10PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:10PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 02:18PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

Respiratory Viral Antigen Screen (Final ___: 
Positive for Respiratory viral antigens. 
POSITIVE FOR RESPIRATORY SYNCYTIAL VIRUS (RSV). 
Viral antigen identified by immunofluorescence. 

DISCHARGE LABS:
======================
___ 12:00AM BLOOD WBC-0.6* RBC-2.73* Hgb-8.6* Hct-26.4* 
MCV-97 MCH-31.5 MCHC-32.6 RDW-21.7* RDWSD-72.9* Plt Ct-61*
___ 12:00AM BLOOD Neuts-27* Bands-0 Lymphs-67* Monos-3* 
Eos-3 Baso-0 ___ Myelos-0 AbsNeut-0.16* 
AbsLymp-0.40* AbsMono-0.02* AbsEos-0.02* AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 12:00AM BLOOD Glucose-92 UreaN-19 Creat-0.8 Na-140 
K-4.2 Cl-104 HCO3-22 AnGap-18
___ 12:00AM BLOOD Calcium-8.5 Phos-2.9 Mg-2.4

IMAGING:
=====================
CXR- PA and LATERAL (___): No acute cardiopulmonary abnormality 

 
Brief Hospital Course:
___ w/ CVID, h/o FL transformed to DLBCL ___ autoSCT (BEAM prep) 
in ___ in remission from lymphoma then with treatment-related 
MDS ___ 4 cycles of decitabine and planning for allo transplant, 
who presented with cough/wheezing and was found to have RSV 
bronchiolitis.

#RSV bronchiolitis
#Cough and wheezing
Patient is neutropenic and has CVID and presented with cough and 
wheezing. She was initially started on cefepime and azithromycin 
for empiric coverage. Patient's respiratory viral screen was 
positive for RSV. She was treated with palvilizumab on ___ and 
ribavirin 600 mg q8h (___). Patient also was treated 
with 4 days of 10 g IVIg (___). She received a 5 day 
course of azithromycin for anti-inflammatory effect. She was 
also continued on cefepime (___), that was transitioned 
to levaquin on ___ for bacterial prophylaxis. She was also 
treated symptomatically with duonebs q6h, mucinex, benzonatate, 
and guaifenesin-codeine at night. Her symptoms improved 
significantly with these measures. She was able to maintain 
O2sat > 95% while ambulating. 

#Myelodysplastic syndrome- Patient is ___ 4 cycles of dacogen 
with plans to move towards allogeneic transplant. She was 
continued on acyclovir for prophylaxis. Her bacterial 
prophylaxis was transitioned to levaquin on ___ as above. She 
was also started on fluconazole during this admission for fungal 
prophylaxis. She was transfused for Hgb < 7 or Plt < 10. She 
received a total of 2U pRBCs and 1U platelets during this 
admission.

#Low back pain- Continued gabapentin 600 mg TID

TRANSITIONAL ISSUES:
======================
- New medications: fluconazole, levofloxacin, guaifenesin with 
codeine, benzonatate, duonebs
- Patient started on fluconazole 200 mg daily during this 
admission for fungal prophylaxis, can consider adjusting dose to 
400 mg daily based on patient's weight
- Patient initially on cefepime for broad spectrum antibiotic 
coverage given significant symptoms and neutropenia that was 
transitioned to levofloxacin on ___. Can consider de-escalating 
to ciprofloxacin if patient continues to clinically improve.
- Of note, patient's PFTs (originally scheduled for ___ were 
rescheduled for ___ due to her acute illness. Can reschedule as 
needed.
 
Medications on Admission:
1. Acyclovir 400 mg PO Q8H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing/cough 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Gabapentin 600 mg PO TID 
5. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN shortness of breath 
6. Omeprazole 20 mg PO DAILY 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. Venlafaxine 25 mg PO BID 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three time a day 
Disp #*30 Capsule Refills:*0 
2.  Fluconazole 200 mg PO Q24H 
RX *fluconazole 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  FoLIC Acid 3 mg PO DAILY 
RX *folic acid 1 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
4.  Guaifenesin-CODEINE Phosphate ___ mL PO HS:PRN cough 
RX *codeine-guaifenesin 10 mg-100 mg/5 mL 5 mL by mouth at night 
Refills:*0 
5.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 neb 
IH every 6 hours Disp #*120 Ampule Refills:*0 
6.  Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Acyclovir 400 mg PO Q8H  
8.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
9.  Gabapentin 600 mg PO TID  
10.  Omeprazole 20 mg PO DAILY  
11.  Ondansetron 4 mg PO Q8H:PRN nausea  
12.  Venlafaxine 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Respiratory syncytial virus bronchiolitis
Myelodysplastic syndrome

Secondary:
Low back pain
Combined variable immunodeficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted because you were having a cough and wheezing. 
We found you had a virus called RSV that we treated with 
medications called palvilizumab and ribavirin. We also gave you 
4 doses of 10g IVIg. We also supported your breathing with 
nebulizer treatments and cough medications. By the time of your 
discharge, you were feeling much better. 

Please follow-up with Dr. ___ at the 
appointment that was set up for you. 

It was a pleasure taking care of you, and we wish you the best. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___